US08252820B2
C. 5-[2-Fluoro-6-hydroxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(2-benzyloxy-4-bromo-6-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt (453 mg, 1 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-2,2′bi[1,3,2-dioxaborolanyl] (508 mg, 2 mmol), PdCl2(dppt) (82 mg, 0.1 mmol), KOAc (294 mg, 3 mmol) in DME (2 mL) is heated at 120° C. for 20 min. in a microwave. The solvent is removed, and ice with NaHCO3 (5%, 50 mL) is added. It is washed with Et2O (50 mL×2). The aqueous layer is acidified with concentrated HCl, and extracted with EtOAc (50 mL). It is then dried over MgSO4, decolorized with charcoal and concentrated to give the title compound: MS (M−H)−=461.

reactant | 5-(2-benzyloxy-4-bromo-6-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt | 1 mmol, 453 mg | [K].C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)Br)F)N1CC(NS1(=O)=O)=O
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-2,2′bi[1,3,2-dioxaborolanyl] | 2 mmol, 508 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 3 mmol, 294 mg | CC(=O)[O-].[K+]
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 5-[2-Fluoro-6-hydroxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | FC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)O)N1CC(NS1(=O)=O)=O | C14H18BFN2O6S
